US07186729B2
Step 2: 2-[(4-Chloro-benzyl)-pyrrolidin-3-yl-amino]-ethanol
A solution of 3-[(4-chloro-benzyl)-(2-hydroxy-ethyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.22 g, 0.6 mmol) in dichloromethane cooled at 0° C. was treated with trifluoroacetic acid (20%). The resulting mixture was warmed to room temperature and stirred for 2 h. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and free based with 10% aqueous sodium bicarbonate. The combined organics were dried over sodium sulfate. The product was used without any further purification. ESI-MS m/z: 255 (M+1), UV retention time: 0.34 min.

reactant | 3-[(4-chloro-benzyl)-(2-hydroxy-ethyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.6 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(CCO)CC1=CC=C(C=C1)Cl | C18H27ClN2O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[(4-Chloro-benzyl)-pyrrolidin-3-yl-amino]-ethanol | ClC1=CC=C(CN(CCO)C2CNCC2)C=C1 | C13H19ClN2O
